US07338973B2
9-methoxy-5,6,7,12-tetrahydro-benzo[6,7]cyclohepta[1,2-b]indole
Following the procedure described in Example 4, using 6,7,8,9-tetrahydro-benzocyclohepten-5-one (1.10 g, 6.87 mmoL) and 4-methoxy-phenylhydrazine HCl salt (1.20 g, 6.87 mmoL) as the starting material, the title compound was prepared as a brown solid.

reactant | 6,7,8,9-tetrahydro-benzocyclohepten-5-one | 1.10 g | C1=CC=CC2=C1CCCCC2=O | C11H12O
reactant | 4-methoxy-phenylhydrazine HCl salt | 1.20 g | Cl.COC1=CC=C(C=C1)NN
product | 9-methoxy-5,6,7,12-tetrahydro-benzo[6,7]cyclohepta[1,2-b]indole | COC=1C=C2C3=C(NC2=CC1)C1=C(CCC3)C=CC=C1 | C18H17NO
